US03974156
A solution of 4-benzyl-2-(3-methoxyanilino)methylmorpholine dihydrochloride monohydrate (2.0 g.) in methanol (50 ml.) is shaken in an atmosphere of hydrogen in the presence of 5% palladium/carbon catalyst until a molar equivalent of hydrogen has been absorbed. The solution is filtered, the methanol evaporated and the residue dissolved in water and the solution thus obtained is basified with dilute sodium hydroxide solution. The mixture is extracted with ether (3 × 100 ml.) and the ethereal solution is dried (MgSO4), filtered and treated with an ethereal solution of oxalic acid. The precipitated oxalate is recrystallised from acetone to give 2-(3-methoxyanilino)methylmorpholine oxalate, m.p. 137°C.

reactant | 4-benzyl-2-(3-methoxyanilino)methylmorpholine dihydrochloride monohydrate | 2.0 g | O.Cl.Cl.C(C1=CC=CC=C1)N1CC(OCC1)CNC1=CC(=CC=C1)OC
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
catalyst | palladium/carbon | [Pd] | Pd
product | 2-(3-methoxyanilino)methylmorpholine oxalate | C(C(=O)O)(=O)O.COC=1C=C(NCC2CNCCO2)C=CC1 | InChI=1S/C12H18N2O2.C2H2O4/c1-15-11-4-2-3-10(7-11)14-9-12-8-13-5-6-16-12;3-1(4)2(5)6/h2-4,7,12-14H,5-6,8-9H2,1H3;(H,3,4)(H,5,6)
